US08703805B2
Preparation of 1-(2,5-Dichloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-3-trifluoromethyl-1H-pyrazole
Into an 8 mL vial was weighed 202.7 mg (539 μmol) of (Z)-1,1,1-trifluoro-4-hydroxy-4-(5-(3-(methylsulfonyl)phenyl)thiophen-2-yl)but-3-en-2-one, 117.4 mg (550 μmol) of 2,5-dichlorophenylhydrazine hydrochloride, 3 mL of acetic acid, and 1 mL of DMF. The resulting reaction was stirred at 100-105° C. for 3 h then was concentrated to dryness in vacuo. The residue was purified by silica gel flash chromatography (3×23 cm, 1:1 ethyl acetate-hexanes) and was dried affording the product as a faintly yellow solid, yield: 89 mg (55%). 1H NMR (400 MHz, CDCl3): δ 8.08 (s, 1H), 7.87 (d, J=9 Hz, 1H), 7.75 (d, J=9 Hz, 1H), 7.6 (m, 2H), 7.5 (m, 2H), 7.27 (d, J=4 Hz, 1H), 6.90 (s, 1H), 6.87 (d, J=4 Hz, 1H), 3.09 (s, 3H).

reactant | (Z)-1,1,1-trifluoro-4-hydroxy-4-(5-(3-(methylsulfonyl)phenyl)thiophen-2-yl)but-3-en-2-one | 539 μmol, 202.7 mg | FC(C(\C=C(\C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)/O)=O)(F)F | C15H11F3O4S2
reactant | 2,5-dichlorophenylhydrazine hydrochloride | 550 μmol, 117.4 mg | Cl.ClC1=C(C=C(C=C1)Cl)NN
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2,5-Dichloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-3-trifluoromethyl-1H-pyrazole | ClC1=C(C=C(C=C1)Cl)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(F)(F)F | C21H13Cl2F3N2O2S2
